US05130335
Ethyl4-(8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
A solution of 220.7 mg (1.0804 mmol) of 8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthoic acid, 180.6 mg (1.0868 mmol) of ethyl 4-hydroxybenzoate, 227.3 mg (1.1034 mmol) of 1,3-dicyclohexylcarbodiimide and 22.9 mg (0.1874 mmol) of 4-dimethylaminopyridine in 15 ml of methylene chloride was stirred at room temperature for 18 h. The reaction mixture was then filtered and the residue washed with 10 ml of methylene chloride. The filtrate was concentrated in-vacuo and the resultant crude product purified by flash chromatography (silica; 5% ethyl acetate in hexanes) to give the title compound as a colorless oil.

reactant | 8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthoic acid | 1.0804 mmol, 220.7 mg | CC1(CCCC=2C=CC(=CC12)C(=O)O)C | C13H16O2
reactant | ethyl 4-hydroxybenzoate | 1.0868 mmol, 180.6 mg | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | 1,3-dicyclohexylcarbodiimide | 1.1034 mmol, 227.3 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.1874 mmol, 22.9 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Ethyl4-(8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | C(C)OC(C1=CC=C(C=C1)OC(=O)C1=CC=2C(CCCC2C=C1)(C)C)=O | C22H24O4
